US05035740
To a cold (0° C.), stirred mixture of 28.7 g (0.333 mole) of methyl acrylate, 2.51 g (0.0244 mole) of tert-butyl nitrite, and 2.6 g (0.019 mole) of copper (II) chloride in 50 mL of acetonitrile was added dropwise a solution of 5.0 g (0.016 mole) of 1-(5-amino-2,4-dichlorophenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one in 15 mL of acetonitrile. After complete addition the reaction mixture was allowed to war to room temperature and was stirred for approximately 18 hours. The reaction mixture was diluted with 15 mL of 2N hydrochloric acid solution. The mixture was extracted with four portions of diethyl ether. The combined extracts were dried over anhydrous magnesium sulfate, filtered, and the filtrate evaporated under reduced pressure to give an oil. The oil was purified by column chromatography on silica gel, eluting with n-heptane:ethyl acetate (4:1) to give 5.0 g of methyl 2-chloro-3-[2,4-dichloro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenyl]propionate as an oil, Compound A3 of Table 1A.

reactant | methyl acrylate | 0.333 mole, 28.7 g | C(C=C)(=O)OC | C4H6O2
reactant | tert-butyl nitrite | 0.0244 mole, 2.51 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | 1-(5-amino-2,4-dichlorophenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 0.016 mole, 5.0 g | NC=1C(=CC(=C(C1)N1N=C(N(C1=O)C(F)F)C)Cl)Cl | C10H8Cl2F2N4O
reactant | hydrochloric acid | 2N, 15 mL | Cl | ClH
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
catalyst | copper (II) chloride | 0.019 mole, 2.6 g | [Cu](Cl)Cl
product | methyl 2-chloro-3-[2,4-dichloro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenyl]propionate | 5.0 g | ClC(C(=O)OC)CC1=C(C=C(C(=C1)N1N=C(N(C1=O)C(F)F)C)Cl)Cl | C14H12Cl3F2N3O3
